Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Coronary angiography ___ 

 
History of Present Illness:
Per admission HPI-
Ms. ___ is a ___ F w/ a hx of HTN, HLD, and T2DM who came to 
the ED after having SOB and palpitations around 4pm yesterday 
___. Attributed it to anxiety as she had just returned from 
___, where she had been visiting sick family members. 

Patient states around 2pmg on ___, developed sudden onset 
palpitations, diaphoresis, and SOB while sitting on couch. She 
had just taken a pill for her depression/anxiety shortly before 
episode. She then presented to the ED where her symptoms 
persisted until 5AM the following morning. She denied any actual
chest pain or pressure, radiation to left arm or neck. She 
denies any change with position or exertion.

She denies any prior cardiac history or any similar episodes in 
the past. She states she occasionally got hot flashes with 
menopause but this sensation is much different. Never had a cath 
or any other cardiac intervention that she is aware of. 

In the ED...  
------------
Patient was chest pain free w/ occasional palpitations but no 
SOB, edema, orthopnea, or paroxysmal nocturnal dyspnea. 

Initial ___ Pain:8 T97.2 HR114 BP177/80 RR17 100%
RA 
EKG:  
- ECG ___ NSR at 66 with normal intervals, normal axis, 
normal RWP, no chamber enlargement, no pathologic q-waves, TW 
flattening in III, no specific ischemic ST-TW changes. 
- Previous ECG earlier on ___ with HR 92 mild STD and scooping 
in II and AvF, submillimeter STD in V3-6, slightly more 
prominent than ___ baseline ECG

- Labs notable for: D-Dimer 461 Cr 0.9 Trop-T < 0.01 x2 A1c
___ 6.5 LDL 99 ___, peak 134 ___

- Patient was given:  Home medications, full dose ASA, did a 
stress test in the ED which was significant for non-specific EKG 
changes in the absence of anginal type symptoms accompanied by a 
progressive drop in systolic blood pressure with exercise. 
Average functional capacity. 

- Vitals on transfer: T94 BP123/62 RR16 98% RA 
 
On the floor, patient denies any palpitations, SOB, chest pain, 
orthopnea, PND, dizziness, diaphoresis, abdominal pain, 
pleurisy. She endorses the history as written above.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Type 2 Diabetes Mellitus  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Right ovarian benign tumor
- Depression/anxiety
- GERD
 
Social History:
___
Family History:
Significant family cardiac history including: 
- Mother died of a heart attack at ___
- father died of a heart attack at ___
- Sister had a heart attack at ___
- Brother had a CABG at ___ and recently had cardiac cath with
stents placed
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================  
VITALS:  ___ 1814 Temp: 98.6 PO BP: 131/74 HR: 78 RR: 18 O2
sat: 98% O2 delivery: RA 
GENERAL: Well appearing woman, sitting in bed in no acute
distress.  
HEENT: EOMI, MMM. Atraumatic, normocephalic.
NECK: Supple with no JVP elevation appreciated.  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops appreciated.
LUNGS: Lungs clear to auscultation bilaterally, no
wheezes/crackles appreciated. Normal work of breathing
ABDOMEN: Soft, non-tender, non-distended. Normal bowel sounds  
EXTREMITIES: No lower extremity edema. Pulses 2+ bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
NEURO: Alert & oriented x3. Non-focal neuro exam.

DISCHARGE PHYSICAL EXAM
======================= 
VITALS:  ___ 0653 Temp: 97.6 PO BP: 129/71 HR: 60 RR: 16 O2
sat: 96% O2 delivery: RA 
GENERAL: Well appearing woman, laying in bed in no acute
distress.  
HEENT: EOMI, MMM. Atraumatic, normocephalic.
NECK: Supple with no JVP elevation appreciated.  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops appreciated.
LUNGS: Lungs clear to auscultation bilaterally, no
wheezes/crackles appreciated. Normal work of breathing
ABDOMEN: Soft, non-tender, non-distended. Normal bowel sounds  
EXTREMITIES: No lower extremity edema. Pulses 2+ bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
NEURO: Alert & oriented x3. Non-focal neuro exam.
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:30PM BLOOD WBC-8.6 RBC-4.84 Hgb-13.1 Hct-40.7 MCV-84 
MCH-27.1 MCHC-32.2 RDW-12.8 RDWSD-38.6 Plt ___
___ 05:30PM BLOOD Neuts-65.5 ___ Monos-7.2 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-5.62 AbsLymp-2.13 AbsMono-0.62 
AbsEos-0.13 AbsBaso-0.04
___ 05:30PM BLOOD ___ PTT-25.1 ___
___ 05:30PM BLOOD D-Dimer-461
___ 05:30PM BLOOD Glucose-142* UreaN-17 Creat-0.9 Na-140 
K-3.4* Cl-102 HCO3-25 AnGap-13
___ 05:30PM BLOOD cTropnT-<0.01
___ 11:46PM BLOOD cTropnT-<0.01
___ 05:30PM BLOOD Mg-1.8

STUDIES
=======
TTE ___
The left atrial volume index is mildly increased. There is no
evidence for an atrial septal defect by 2D/ color Doppler. The
estimated right atrial pressure is ___ mmHg. There is normal 
left
ventricular wall thickness with a normal cavity size. There is
normal regional and global left ventricular systolic function.
The visually estimated left ventricular ejection fraction is
60-65%. Left ventricular cardiac index is normal (>2.5 
L/min/m2).
There is no resting left ventricular outflow tract gradient. No
ventricular septal defect is seen. Diastolic parameters are
indeterminate. Normal right ventricular cavity
size with normal free wall motion. The aortic sinus diameter is
normal for gender with normal ascending aorta diameter for
gender. The aortic valve leaflets (3) are mildly thickened. 
There
is no aortic valve stenosis. There is no aortic regurgitation.
The mitral valve leaflets are mildly thickened with no mitral
valve prolapse. There is trivial mitral regurgitation. The
tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The
estimated pulmonary artery systolic pressure is normal. There is
no pericardial effusion.
IMPRESSION: Preserved biventricular systolic function. No
clinically significant valvular disease. Normal pulmonary
pressure.

Cardiac catheterization ___
• Elevated left heart filling pressure.
• No angiographically apparent coronary artery disease.
• Mild elevation in L-side filling pressures. Mild LVOT gradient
after IV dobutamine.
Recommendations
• Maximize medical therapy

Treadmill stress test ___
INTERPRETATION: This ___ year old NIDDM woman with a h/o HTN, HLD
and 
a +family h/o premature CAD was referred to the lab from the ED 
following negative serial cardiac biomarkers for evaluation of
chest 
discomfort, shortness of breath and palpitations. The patien
exercised for 12.0 minutes of a Gervino protocol, and the test
was stopped for a progressive drop in systolic blood pressure.
The estimated peak MET capacity is 6.2, representing an average
functional capacity for her age. There were no chest, neck, arm,
back discomforts, palpitations or pre-syncopal type symptoms
reported by the patient throughout the study. In the setting of
baseline NSSTTWs in the inferior leads and V3-6, at peak 
exercise
there was an additional 0.5 mm scooping ST segment depression in
the inferior leads. These changes slowly returned to baseline by
10 minutes of recovery. The rhythm was sinus without ectopy.
Appropriate heart rate response to exercise with an initial
appropriate systolic blood pressure response to stages I-II of
exercise, followed by a progressive drop in systolic blood
pressure thereafter(182/70->170/70->160/70->150/70 mmHg). 
IMPRESSION: Non-specific EKG changes in the absence of anginal
type symptoms accompanied by a progressive drop in systolic 
blood
pressure with exercise. Average functional capacity. 

EKG:  
- ECG ___ NSR at 66 with normal intervals, normal axis,
normal RWP, no chamber enlargement, no pathologic q-waves, TW
flattenin in III, no specific ischemic ST-TW changes. 
- Previous ECG earlier on ___ with HR 92 mild STD and scooping
in II and AvF, submillimeter STD in V3-6, slightly more 
prominent
than ___ baseline ECG

DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-7.9 RBC-4.96 Hgb-13.2 Hct-42.7 MCV-86 
MCH-26.6 MCHC-30.9* RDW-13.2 RDWSD-41.1 Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD ___ PTT-26.3 ___
___ 06:55AM BLOOD Glucose-99 UreaN-20 Creat-0.8 Na-143 
K-4.4 Cl-106 HCO___ AnGap-11
___ 06:55AM BLOOD Calcium-9.7 Phos-3.6 Mg-2.1
 
Brief Hospital Course:
PATIENT SUMMARY
===============
Ms. ___ is a ___ F w/ a hx of HTN, HLD, and T2DM who came to 
the ED after having SOB, lightheadedness, and palpitations. She 
has found to have negative cardiac markers, equivocal 
sub-millimeter ST depressions in V3-V6. She was found to have a 
drop in blood pressure on exercise stress test. Coronary cath 
showed NO coronary artery disease. Her home medications were 
resumed at discharge. 

ACUTE ISSUES
============
#Systolic blood pressure drop with exercise stress test
Patient presented with dizziness and nausea, found to have 
negative biomarkers. EKG with "sub-millimeter ST depressions in 
V3-V6". Exercise stress test was negative for angina, but 
notable for a significant blood pressure drop during exercise. 
Patient was admitted with concern that this could be an 
indication of underlying coronary artery disease. ECHO was 
normal. Patient has multiple cardiac risk factors, including + 
FH, HTN, HLD, and T2DM, therefore decision was made to proceed 
with coronary angiography. She was given a beta blocker and a 
high dose statin prior to cath. There was evidence of mild LVOT 
with dobutamine stress, but otherwise, coronaries were free of 
disease. Given the LVOT w/ dobutamine stress, if pt begins to 
have more chest pain at home, would recommend repeating the 
echo. Her home medication regimen was resumed at discharge. 

CHRONIC ISSUES
===============
#Hypertension
Stable on admission. Held HCTZ/lisinopril initially given 
possibility of cath. Resumed home meds at discharge

#Hyperlipidemia
Takes Simvastatin 40mg at home. Given Atorvastatin 80mg prior to 
cath. Simvastatin resumed at discharge. 

#T2DM
Held home metformin. Given SSI while inpatient. 

TRANSITIONAL ISSUES
===================
#Inducible LVOT
- If patient re-presents in the future with syncope or 
pre-syncope, consider repeating ECHO to evaluate for LVOT as a 
possible cause. 

# CODE: Full code, confirmed
# CONTACT: ___ 
 Relationship: SISTER 
 Phone: ___ 
# ___ at time of discharge: 0.8
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
2. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
3. Mirtazapine 7.5 mg PO QPM 
4. Propranolol 10 mg PO BID:PRN anxiety 
5. MetFORMIN (Glucophage) 500 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Omeprazole 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Escitalopram Oxalate 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Escitalopram Oxalate 20 mg PO DAILY  
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
5.  MetFORMIN (Glucophage) 500 mg PO DAILY  
6.  Mirtazapine 7.5 mg PO QPM  
7.  Omeprazole 20 mg PO DAILY  
8.  Propranolol 10 mg PO BID:PRN anxiety  
9.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Dizziness

SECONDARY DIAGNOSES
Hyperlipidemia
Hypertension
Diabetes Mellitus Type II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had dizziness.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a cardiac stress test, during which your blood 
pressure became lower than normal.
- You had a cardiac cath, which did not show any disease in your 
coronary arteries. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please keep the primary care appointments we have made for 
you.
- Please take all your medications as prescribed.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team 
 
Followup Instructions:
___